US06531502B1
To a suspension of 10 g (38.9 mmol) ethyl 2,4-dimethyl-5-(ethoxycarbonyl)-3-pyrrolepropionate (commercially available) in a mixture of water (250 mL) and methanol (MeOH) (50 mL) was added 3.0 g of KOH in 50 mL of water. The mixture was stirred at 70° C. for 4 hr. The reaction mixture was cooled and the methanol was stripped from the mixture under vacuum. The remaining solution was filtered and the filtrate was then acidified with 6N hydrochloric acid to pH 3. The precipitate which formed was collected by filtration, washed with a 2:1 mixture of water and ethanol and dried under vacuum to give 7.5 g of 4-(2-carboxy-ethyl)-3,5-dimethyl-1H-pyrrole-2-carboxylic acid ethyl ester as a white solid.

reactant | ethyl 2,4-dimethyl-5-(ethoxycarbonyl)-3-pyrrolepropionate | 38.9 mmol, 10 g | CC=1NC(=C(C1CCC(=O)OCC)C)C(=O)OCC | C14H21NO4
reactant | KOH | 3.0 g | [OH-].[K+]
solvent | water | 250 mL | O | H2O
solvent | methanol | 50 mL | CO | CH4O
solvent | water | 50 mL | O | H2O
product | 4-(2-carboxy-ethyl)-3,5-dimethyl-1H-pyrrole-2-carboxylic acid ethyl ester | 7.5 g | C(C)OC(=O)C=1NC(=C(C1C)CCC(=O)O)C | C12H17NO4
